US06380215B1
A mixture of ethyl 3-azido-2(S)-(tert-butoxycarbonyl)aminopropionate (0.5 g) and 10% Pd—C (0.1 g, 50% wet) in ethanol (5 ml) was hydrogenated at atmospheric pressure for 1 hour. After the catalyst was removed by filtration, the filtrate was concentrated in vacuo to give 2(S)-(tert-butoxycarbonyl)amino-β-alanine ethyl ester (0.45 g).

reactant | ethyl 3-azido-2(S)-(tert-butoxycarbonyl)aminopropionate | 0.5 g | N(=[N+]=[N-])C[C@@H](C(=O)OCC)NC(=O)OC(C)(C)C | C10H18N4O4
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | Pd—C | 0.1 g | [Pd] | Pd
product | 2(S)-(tert-butoxycarbonyl)amino-β-alanine ethyl ester | 0.45 g | C(C)OC([C@H](CN)NC(=O)OC(C)(C)C)=O | C10H20N2O4
